US09034880B2
Preparation of 3,4-dihydro-2-(hydroxymethyl)-8-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-2H-pyrido[4,3-b]indol-1(5H)-one (Compound 319)
The title compound is prepared from a mixture of 3,4-dihydro-2-(hydroxymethyl)-8-methyl-2H-pyrido[4,3-b]indol-1(5H)-one, 2-methyl-5-vinylpyridine and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 3,4-dihydro-2-(hydroxymethyl)-8-methyl-2H-pyrido[4,3-b]indol-1(5H)-one | OCN1C(C2=C(NC=3C=CC(=CC23)C)CC1)=O | C13H14N2O2
reactant | 2-methyl-5-vinylpyridine | CC1=NC=C(C=C1)C=C | C8H9N
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 3,4-dihydro-2-(hydroxymethyl)-8-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-2H-pyrido[4,3-b]indol-1(5H)-one | OCN1C(C2=C(N(C=3C=CC(=CC23)C)CCC=2C=NC(=CC2)C)CC1)=O | C21H23N3O2
